US05011849
8.6 g (34.6 mmol) of ethyl 4-(4-fluorophenyl)-1-methyl-3-pyrazolecarboxylate were heated to 70° for 60 minutes with 90 ml of 2N sodium hydroxide solution and 50 ml of water. Conversion into the acid form and recrystallization of the crude product from ethyl acetate/hexane yielded 6.9 g (gO 4%) of 4-(4-fluorophenyl)-1-methyl-3-pyrazolecarboxylic acid as white crystals, melting point 146°-147°.

reactant | ethyl 4-(4-fluorophenyl)-1-methyl-3-pyrazolecarboxylate | 34.6 mmol, 8.6 g | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)OCC | C13H13FN2O2
reactant | sodium hydroxide | 2N, 90 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 4-(4-fluorophenyl)-1-methyl-3-pyrazolecarboxylic acid | 6.9 g, 4% | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)O | C11H9FN2O2
